US07935699B2
In a flask containing 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[1-(2-methyl-2-triethylsilanyloxy-propyl)-1H-pyrazol-3-yl]-propionamide (80 mg, 0.14 mmol) was added tetrahydrofuran (2 mL), water (500 μL) and acetic acid (2 mL) and was stirred at 25° C. until complete by thin layer chromatography. It was then diluted with water (10 mL) and extracted with ethyl acetate (3×10 mL). The organics were than combined and washed with a saturated aqueous solution of sodium bicarbonate (10 mL) and dried over magnesium sulfate, filtered and concentrated. Purification by AnaLogix Intelliflash system (4 g silica gel column, 15% ethyl acetate/hexanes to 50% ethyl acetate/hexanes) afforded 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-propionamide (40 mg, 63%) as a white foam: [α]31589=−8.2° (c=0.11, methylene chloride); ES-HRMS m/e calcd for C22H30N3O4SCl (M+H)+ 468.1719, observed 468.1717; 1H NMR (300 MHz, DMSO-d6) δ ppm 1.03 (s, 3H, CH3), 1.04 (s, 3H, CH3), 1.06-1.20 (m, 2H, CH2), 1.35-1.84 (m, 8 H, 4×CH2), 2.00-2.17 (m, 1H, CH), 3.34 (s, 3H, SO2CH3), 3.86 (s, 2H, NCH2), 3.92 (dd, J=8.3, 6.8 Hz, 1H, ArCH), 4.65 (s, 1H, OH), 6.45 (d, J=2.3 Hz, 1H, Ar), 7.51 (d, J=2.3 Hz, 1H, Ar), 7.59 (dd, Jo=8.3 Hz, Jm=1.6 Hz, 1H, Ar), 7.70 (d, Jm=1.6 Hz, 1H, Ar), 8.01 (d, Jo=8.3 Hz, 1H, Ar), 10.81 (s, 1H, NH).

reactant | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[1-(2-methyl-2-triethylsilanyloxy-propyl)-1H-pyrazol-3-yl]-propionamide | 0.14 mmol, 80 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NN(C=C1)CC(C)(O[Si](CC)(CC)CC)C)CC1CCCC1 | C28H44ClN3O4SSi
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
solvent | water | 500 μL | O | H2O
product | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-propionamide | 40 mg, 63% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NN(C=C1)CC(C)(C)O)CC1CCCC1 | C22H30ClN3O4S
